US07745641B2
In a similar manner to Step 2 of Example 6, 4-chloro-7-[1-(tert-butoxycarbonyl)-5-formylindol-2-yl]isoindolinone (37.6 mg, 0.0922 mmol) was dissolved in acetonitrile (2 mL), and the solution was treated with diethanolamine (0.035 mL, 0.37 mmol), acetic acid (0.106 mL, 1.85 mmol) and sodium triacetoxyborohydride (98 mg, 0.46 mmol), followed by purification by preparative thin-layer chromatography (hexane/ethyl acetate=1/2) to obtain 4-chloro-7-(1-(tert-butoxycarbonyl)-5-[di(2-hydroxyethyl)aminomethyl]indol-2-yl)isoindolinone (29.2 mg, yield 64%).

reactant | 4-chloro-7-[1-(tert-butoxycarbonyl)-5-formylindol-2-yl]isoindolinone | 0.0922 mmol, 37.6 mg | ClC1=C2CNC(C2=C(C=C1)C=1N(C2=CC=C(C=C2C1)C=O)C(=O)OC(C)(C)C)=O | C22H19ClN2O4
reactant | diethanolamine | 0.37 mmol, 0.035 mL | N(CCO)CCO | C4H11NO2
reactant | acetic acid | 1.85 mmol, 0.106 mL | C(C)(=O)O | C2H4O2
reactant | sodium triacetoxyborohydride | 0.46 mmol, 98 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | acetonitrile | 2 mL | C(C)#N | C2H3N
product | 4-chloro-7-(1-(tert-butoxycarbonyl)-5-[di(2-hydroxyethyl)aminomethyl]indol-2-yl)isoindolinone | 29.2 mg, yield 64% | ClC1=C2CNC(C2=C(C=C1)C=1N(C2=CC=C(C=C2C1)CN(CCO)CCO)C(=O)OC(C)(C)C)=O | C26H30ClN3O5
